US06329400B1
To a solution of methyl (2R,3R)-2-(3-trimethylsilyl-2-propyne-1-yl)-3-hydroxybutanoate (5.6 g, 24.56 mmol) in THF-methanol (3:1, 160 mL) is added 2 M aqueous sodium hydroxide solution (40 mL, 36.8 mmol). The solution is stirred at 23° C. for 20 h, then concentrated and extracted with hexanes (100 mL). The aqueous layer is acidified to pH 3 with 1 M HCl and is extracted with two 100 mL portions of EtOAc. The combined organic layers are dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide (2R,3R)-2-(2-propyne-1-yl)-3-hydroxybutanoic acid as an oil (3.0 g, 86% yield).

reactant | methyl (2R,3R)-2-(3-trimethylsilyl-2-propyne-1-yl)-3-hydroxybutanoate | 24.56 mmol, 5.6 g | C[Si](C#CC[C@@H](C(=O)OC)[C@@H](C)O)(C)C | C11H20O3Si
reactant | sodium hydroxide | 36.8 mmol, 2 M, 40 mL | [OH-].[Na+]
solvent | THF methanol | 160 mL | C1CCOC1.CO
product | (2R,3R)-2-(2-propyne-1-yl)-3-hydroxybutanoic acid | 3.0 g, 86% yield | C(C#C)[C@@H](C(=O)O)[C@@H](C)O | C7H10O3
